US06582351B1
To a solution of 1-(trans-4-hydroxycyclohexyl)-5-trifluoromethyl-2,3-dihydro-1H-benzimidazol-2-one (200 mg) in anhydrous N,N-dimethylformamide (2 mL) was added portionwise sodium hydride (29.3 mg, 60% dispersion in mineral oil) at 5° C. under nitrogen atmosphere, and the mixture was stirred at room temperature for 30 minutes. After adding 3,4-dimethoxybenzylbromide (154 mg), the mixture was stirred at room temperature for 2 hours. The mixture was partitioned between ethyl acetate and water. The separated organic layer was washed successively with 1 N-hydrochloric acid, water, an aqueous saturated sodium hydrogencarbonate solution and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was subjected to a preparative silica gel column chromatography eluting with 5% methanol in chloroform. The obtained amorphous was recrystallized from diethyl ether to give 3-(3,4-dimethoxybenzyl)-1-(trans-4-hydroxycyclohexyl)-5-trifluoromethyl-2,3-dihydro-1H-benzimidazol-2-one (217.9 mg) as a colorless solid.

reactant | 1-(trans-4-hydroxycyclohexyl)-5-trifluoromethyl-2,3-dihydro-1H-benzimidazol-2-one | 200 mg | O[C@@H]1CC[C@H](CC1)N1C(NC2=C1C=CC(=C2)C(F)(F)F)=O | C14H15F3N2O2
reactant | sodium hydride | 29.3 mg | [H-].[Na+]
reactant | 3,4-dimethoxybenzylbromide | 154 mg | COC=1C=C(CBr)C=CC1OC | C9H11BrO2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 3-(3,4-dimethoxybenzyl)-1-(trans-4-hydroxycyclohexyl)-5-trifluoromethyl-2,3-dihydro-1H-benzimidazol-2-one | 217.9 mg | COC=1C=C(CN2C(N(C3=C2C=C(C=C3)C(F)(F)F)[C@@H]3CC[C@H](CC3)O)=O)C=CC1OC | C23H25F3N2O4
